US04523013
0.067 mol of 4-(cyclopropylcarbonyl)-2,6-dioxopiperazine are dissolved in 200 ml of dimethylacetamide. 0.073 mol of sodium methylate are added and the mixture is left for 1 hour at ambient temperature. To the reaction medium is added, dropwise and in an inert atmosphere, a solution of 0.081 mol of (2-ethyl tosyloxy)-benzene in 50 mol of dimethylacetamide and the mixture is brought to 90° C. for 4 hours. It is evaporated to dryness under reduced pressure, the residue is taken up in a mixture of water and methylene chloride and the decanted organic phase is dried over dry sodium sulphate. The solvent is evaporated and the residue, formed by crude 4-(cyclopropylcarbonyl)-2,6-dioxo-1-phenethyl piperazine, is dissolved in 600 ml of ethanol. The solution as thus obtained has added thereto, at 0° C. and in an inert atmosphere, 0.059 mol of manganese chloride and is left for 1 hour at 0° C. 0.23 mol of sodium borohydride is added in portions to the reaction medium, kept at 0° C., and the reaction medium is left for 45 minutes at 0° C. The excess of reducing agent is destroyed by adding acetone. The insoluble salts are filtered, the filtrate is evaporated to dryness and the residue is treated with a mixture of water and methylene chloride. The decanted organic phase is dried over dry sodium sulphate and evaporated to dryness. The residue is purified by filtration on a silica bed and the product as thus obtained, formed by the 4-(cyclopropylcarbonyl)-2-hydroxy-6-oxo-1-phenethyl piperazine, is added in portions to 150 ml of hydrochloric acid previously cooled to 0° C. After one night at ambient temperature, the reaction medium is poured into iced water and extracted with dichloromethane. The organic phase is dried on an anhydrous sodium sulphate and it is evaporated. In this way, there is obtained the 2-(cyclopropylcarbonyl)-1,3,4,6,7,11b-hexahydro-2H-pyrazino(2,1-a)-4-isoquinoleinone; m.p.=148°-149° C., yield: 57%.

reactant | 4-(cyclopropylcarbonyl)-2,6-dioxopiperazine | 0.067 mol | C1(CC1)C(=O)N1CC(NC(C1)=O)=O | C8H10N2O3
reactant | sodium methylate | 0.073 mol | C[O-].[Na+]
reactant | (2-ethyl tosyloxy)-benzene | 0.081 mol | C(C)C1=C(S(=O)(=O)OC2=CC=CC=C2)C=CC(=C1)C | C15H16O3S
reactant | sodium borohydride | 0.23 mol | [BH4-].[Na+]
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | manganese chloride | 0.059 mol | [Cl-].[Mn+2].[Cl-]
solvent | dimethylacetamide | 50 mol | CC(=O)N(C)C | C4H9NO
product | 4-(cyclopropylcarbonyl)-2-hydroxy-6-oxo-1-phenethyl piperazine | C1(CC1)C(=O)N1CC(N(C(C1)=O)CCC1=CC=CC=C1)O | C16H20N2O3
